US06930120B2
2-{4-[2-(5-Methyl-2-thiophen-2-yl-oxazol-4-yl)-ethoxy]-benzyl}-2-phenoxy-butyric acid
The title compound was prepared from 2-(4-hydroxybenzyl)-2-phenoxybutyric acid ethyl ester and toluene-4-sulfonic acid 2-(5-methyl-2-thiophen-2-yl-oxazol-4-yl)-ethyl ester using the method of Example 46. 1H NMR (400 MHz, CDCl3) δ 7.59 (dd, 1H, J=3.6, 0.8 Hz), 7.37 (dd, 1H, J=5.2, 1.2 Hz), 7.33-7.27 (m, 2H), 7.09-7.05 (m, 2H), 7.02-6.96 (m, 4H), 6.78-6.73 (m, 2H), 4.16 (t, 2H, J=6.6 Hz), 3.29 (s, 2H), 2.94 (t, 2H, J=6.6 Hz), 2.34 (s, 3H), 2.14 (qd, 1H, J=14.8, 7.6 Hz), 2.07 (qd, 1H, J=14.8, 7.6 Hz), 0.91 (t, 3H, J=7.6 Hz).

reactant | 2-(4-hydroxybenzyl)-2-phenoxybutyric acid ethyl ester | C(C)OC(C(CC)(OC1=CC=CC=C1)CC1=CC=C(C=C1)O)=O | C19H22O4
reactant | toluene-4-sulfonic acid 2-(5-methyl-2-thiophen-2-yl-oxazol-4-yl)-ethyl ester | CC1=C(N=C(O1)C=1SC=CC1)CCOS(=O)(=O)C1=CC=C(C=C1)C | C17H17NO4S2
product | 2-{4-[2-(5-Methyl-2-thiophen-2-yl-oxazol-4-yl)-ethoxy]-benzyl}-2-phenoxy-butyric acid | CC1=C(N=C(O1)C=1SC=CC1)CCOC1=CC=C(CC(C(=O)O)(CC)OC2=CC=CC=C2)C=C1 | C27H27NO5S
